US08202873B2
Suspend 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (1.3 g, 3.26 mmol) in 1,4-dioxane (10 mL). Add HCl in dioxane (4 M, 10 mL), stir for 2 hr. then filter off the yellow solid. Wash with dioxane then diethyl ether to give 3′-(4-methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride as yellow solid (935 mg, 80%). MS (ES): m/z=285 [M+H]+.

reactant | 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 3.26 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)COC | C21H28N4O3
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 M, 10 mL | O1CCOCC1 | C4H8O2
product | 3′-(4-methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 935 mg, 80% | Cl.Cl.COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | InChI=1S/C16H20N4O.2ClH/c1-21-12-13-2-4-14(5-3-13)15-16(19-7-6-18-15)20-10-8-17-9-11-20;;/h2-7,17H,8-12H2,1H3;2*1H
